US06506764B1
2-(1,4-Dioxa-8-azaspiro[4.5]decane-8-sulfonylmethyl)-3-methyl-butyric acid tert-butyl ester
2-Chlorosulfonylmethyl-3-methylbutyric acid tert-butyl ester, dichloromethane (60 ml), triethylamine (82 ml), and 1,4-dioxa-8-aza-spiro[4.5]decane(1.59 g) were reacted as above. Purification by flash chromatography (eluent 50% hexane/diethyl ether) yielded the title compound as a green gum (1.57 g). Rf 0.35 (50% hexane/diethyl ether).

reactant | 2-Chlorosulfonylmethyl-3-methylbutyric acid tert-butyl ester | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)Cl)=O | C10H19ClO4S
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | 1.59 g | O1CCOC12CCNCC2 | C7H13NO2
solvent | triethylamine | 82 ml | C(C)N(CC)CC | C6H15N
product | 2-(1,4-Dioxa-8-azaspiro[4.5]decane-8-sulfonylmethyl)-3-methyl-butyric acid tert-butyl ester | 1.57 g | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)N1CCC2(OCCO2)CC1)=O | C17H31NO6S
